US07375101B2
5,7-Dichloro-1,3-dihydro-1-methyl-2H-1,4benzodiazepin-2-one
As illustrated in the scheme above, 7-chloro-3,4-dihydro-1-methyl-1H-1,4-benzodiazepine-2,5-dione (5.00 g, 22.3 mmol) was suspended in POCl3 (100 mL) and heated at 100° C. for 30 min. The reaction was cooled and concentrated in vacuo. Traces of POCl3 were removed by adding toluene and concentrating the mixture in vacuo (2×). The residue was dissolved in CH2Cl2, the solution was cooled to 0° C., and Et3N (6.8 mL, 48.8 mmol) was added dropwise. The mixture was stirred for 1 h and allowed to slowly warm to room temperature, and was then concentrated in vacuo once again. The residue was purified by silica gel column chromatography (5:1 CH2Cl2:EtOAc+0.5% Et3N) to provide the title compound as an orange solid (4.68 g, 86%). 1H-NMR (CDCl3): δ 7.79 (d, J=2.5 Hz, 1H), 7.55 (dd, J=2.4 Hz, J=8.9 Hz, 1H), 7.23 (d, J=8.8 Hz, 1H), 4.67 (br s, 1H), 3.72 (br s, 1H), 3.39 (s, 3H). MS (ESI) (M+H)+=243.

reactant | 7-chloro-3,4-dihydro-1-methyl-1H-1,4-benzodiazepine-2,5-dione | 22.3 mmol, 5.00 g | ClC=1C=CC2=C(C(NCC(N2C)=O)=O)C1 | C10H9ClN2O2
reactant | Et3N | 48.8 mmol, 6.8 mL | CCN(CC)CC | C6H15N
reactant | POCl3 | 100 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5,7-Dichloro-1,3-dihydro-1-methyl-2H-1,4benzodiazepin-2-one | 4.68 g, 86% | ClC1=NCC(N(C2=C1C=C(C=C2)Cl)C)=O | C10H8Cl2N2O
